US06503907B2
In analogy to example 4.4, 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole and 2-(ethylamino)ethanol were converted to yield 2-{Ethyl-[6-(1-phenyl-1H-indol-5-yloxy)-hexyl]-amino}-ethanol as colorless oil, MS: 381(MH+).

reactant | 5-(6-Bromo-hexyloxy)-1-phenyl-1H-indole | BrCCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C20H22BrNO
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
product | 2-{Ethyl-[6-(1-phenyl-1H-indol-5-yloxy)-hexyl]-amino}-ethanol | C(C)N(CCO)CCCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C24H32N2O2
